US06610701B2
To a solution of 1.1 g (5.9 mmol) 8-azidomethyl-1,6-napthyridine in 20 mL THF was added 2 mL H2O and 3 g PPh3. The resulting solution was allowed to stir overnight at room temperature, then concentrated in vacuo. Purification by flash chromatography (50×140 mm silica gel, linear gradient 5-20% (10% NH4H in MeOH):CH2Cl2) yielded 8-aminomethyl-1,6-napthyridine. 1H NMR (CDCl3, 400 MHz) δ9.22 (s, 1H); 9.13 (dd, 1H, J=4.3 and 1.8 Hz); 8.70 (s, 1H); 8.32 (dd, 1H, J=8.24 and 1.83 Hz); 7.61 (dd, 1H, J=8.24 and 4.3 Hz); 4.40 (s, 2H).

reactant | 8-azidomethyl-1,6-napthyridine | 5.9 mmol, 1.1 g | N(=[N+]=[N-])CC=1C=NC=C2C=CC=NC12 | C9H7N5
reactant | H2O | 2 mL | O | H2O
reactant | PPh3 | 3 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 8-aminomethyl-1,6-napthyridine | NCC=1C=NC=C2C=CC=NC12 | C9H9N3
